US08471012B2
4-Chloro-6,7-bis-(2-methoxyethoxy)-quinazoline (63 gm) and isopropyl alcohol (990 ml) are added to 3-ethynylaniline (23.6 gm) at 25-30° C. under stirring, the contents are heated to reflux and then refluxed for 1 hour 30 minutes to 2 hours. The reaction mass is cooled to 25-30° C. and stirred for 30 minutes. Filtered the material, washed with chilled isopropyl alcohol (400 ml) followed by n-hexane (300 ml) and then dried the material at 50-60° C. under vacuum for 6 hours to give 75 gm of crude erlotinib hydrochloride in polymorph form A [HPLC purity: 97%; Mean particle size (D50): 3.42 μm and 90 volume-% of the particles (D90): 4.53 μm].

reactant | 4-Chloro-6,7-bis-(2-methoxyethoxy)-quinazoline | 63 gm | ClC1=NC=NC2=CC(=C(C=C12)OCCOC)OCCOC | C14H17ClN2O4
reactant | 3-ethynylaniline | 23.6 gm | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | isopropyl alcohol | 990 ml | C(C)(C)O | C3H8O
product | erlotinib hydrochloride | 75 gm | COCCOC=1C=C2C(=CC1OCCOC)N=CN=C2NC=3C=CC=C(C3)C#C.Cl | InChI=1S/C22H23N3O4.ClH/c1-4-16-6-5-7-17(12-16)25-22-18-13-20(28-10-8-26-2)21(29-11-9-27-3)14-19(18)23-15-24-22;/h1,5-7,12-15H,8-11H2,2-3H3,(H,23,24,25);1H
